* c:\users\saisr\esim-workspace\parity_gen\parity_gen.cir

* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ parity_gen
* u6  in1 in2 in3 in4 net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ adc_bridge_4
* u7  net-_u2-pad5_ out dac_bridge_1
v1  in1 gnd pulse(0 10 10u 10u 10u 10m 20m)
v2  in2 gnd pulse(0 10 10u 10u 10u 20m 40m)
v3  in3 gnd pulse(0 10 10u 10u 10u 40m 80m)
v4  in4 gnd pulse(0 10 10u 10u 10u 80m 160m)
r1  out gnd resistor
* u5  in1 plot_v1
* u4  in2 plot_v1
* u3  in3 plot_v1
* u1  in4 plot_v1
* u8  out plot_v1
a1 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ ] [net-_u2-pad4_ ] [net-_u2-pad5_ ] u2
a2 [in1 in2 in3 in4 ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ ] u6
a3 [net-_u2-pad5_ ] [out ] u7
* Schematic Name:                             parity_gen, NgSpice Name: parity_gen
.model u2 parity_gen(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 10e-03 500e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
plot v(in3)
plot v(in4)
plot v(out)
.endc
.end
