* c:\users\saisr\esim-workspace\ring_counter\ring_counter.cir

* u4  clk rst net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u5  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ out1 out2 out3 out4 dac_bridge_4
r1  out1 gnd resistor
v1  clk gnd pulse(0 10 10u 10u 10u 10m 20m)
* u3  clk plot_v1
v2  rst gnd pulse(0 10 10u 10u 10u 1m 500m)
* u2  rst plot_v1
r2  out2 gnd resistor
r3  out3 gnd resistor
r4  out4 gnd resistor
* u8  out1 plot_v1
* u6  out2 plot_v1
* u9  out3 plot_v1
* u7  out4 plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ring_count
a1 [clk rst ] [net-_u1-pad1_ net-_u1-pad2_ ] u4
a2 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] [out1 out2 out3 out4 ] u5
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] u1
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             ring_count, NgSpice Name: ring_count
.model u1 ring_count(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 10e-03 500me-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(rst)
plot v(out1)
plot v(out2)
plot v(out3)
plot v(out4)
.endc
.end
